Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall 

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ is a ___ male who presents to ___ on
___ with a moderate TBI. ___ w/PMH Afib (no longer on 
anticoagulation due to safety concerns w/recurrent falls - INR 
1.0),  HLD, HTN, CHF, CKD,
recurrent falls, and moderate dementia. Known to ___ for 
subdural in ___  when he was found-down and  admitted to ___ 
w/Nsurg following. He now re-presents with unwitnessed fall last 
night ___ and SDH on head CT at ___ urgent care. 

Patient does not remember falling - only remembers waking up on 
floor.  He then got himself up, and his home health aide was 
concerned and brought him to ___ due to head lac.  
There, imaging was done and revealed R fronto-temporal SDH and 
old left orbital floor fx from ___.
 
Past Medical History:
Atrial fibrillation 
Congestive heart failure 
CKD (chronic kidney disease) stage 3, GFR ___ ml/min 
Actinic keratosis
Hyperparathyroidism
Squamous cell carcinoma
Basal cell carcinoma
Carcinoma in situ of eyelid
Hypercholesterolemia 
BPH
Blood in stool 
Diverticulosis 
Right rotator cuff tear
Gout
 
 
Social History:
___
Family History:
Sister with heart valve problem. Son on coumadin for a DVT. 
Father died of stroke @___. Mother in ___ due to unknown cause. 
 
Physical Exam:
ADMISSION EXAM:
T: 97.5   BP:  111/70   HR: 84   RR: 16  O2 Sat: 100%RA 
GCS upon Neurosurgery Evaluation: 15
Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously
Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented
Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands
Exam:
Gen: WD/WN, comfortable, NAD.
HEENT:
Pupils: R surgical and teardrop in shape, Left ___.
EOM: Intact 
Extrem: warm and well perfused
Neuro:
Mental Status: Awake, alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech is fluent with good comprehension. 
Cranial Nerves:
I: Not tested
II: Pupils Right surgical and teardrop in shape, Left 3mm-2mm.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.
Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Bilateral deltoids 4+/5 (pain limited) otherwise ___
strength. No pronator drift
Sensation: Intact to light touch

UPON DISCHARGE: 
VITALS: 97.5, 110 / 69, hr 69, RR 18, 96 Ra
Orthostatic vital signs this AM showed a drop of ___
CV:  RRR without obvious murmur
Pulm:  CTAB with normal resp effort
Neuro: steady gait without any adaptive equipment, though he 
lists to the right.  Moving all extremities.
 
Pertinent Results:
REPORTS
==================
CT Head ___. Stable right frontal convexity subdural hematoma. 
2. No new intracranial bleed identified. 

CT C Spine ___. No evidence of fracture or traumatic malalignment. 
2. Multilevel multifactorial degenerative changes. 
3. No interval change in right thyroid nodule.  No follow up 
recommended per ACR criteria as below.

CXR ___
No acute cardiopulmonary process. 

MICROBIOLOGY
==================
Urine culture no growth

ADMISSION LABS
===================
___ 06:30PM BLOOD WBC-8.1 RBC-4.46* Hgb-14.7 Hct-42.3 
MCV-95 MCH-33.0* MCHC-34.8 RDW-13.1 RDWSD-45.0 Plt ___
___ 06:30PM BLOOD Neuts-76.5* Lymphs-11.0* Monos-10.3 
Eos-1.5 Baso-0.2 Im ___ AbsNeut-6.16* AbsLymp-0.89* 
AbsMono-0.83* AbsEos-0.12 AbsBaso-0.02
___ 06:30PM BLOOD Glucose-155* UreaN-22* Creat-1.2 Na-141 
K-4.7 Cl-103 HCO3-24 AnGap-14
___ 06:30PM BLOOD cTropnT-<0.01

DISCHARGE LABS
===================
___ 05:40AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.2
___ 05:30AM BLOOD WBC-6.0 RBC-4.17* Hgb-13.6* Hct-39.1* 
MCV-94 MCH-32.6* MCHC-34.8 RDW-13.1 RDWSD-44.5 Plt ___
___ 05:30AM BLOOD Glucose-123* UreaN-22* Creat-1.1 Na-143 
K-4.3 Cl-107 HCO3-25 AnGap-11
___ 05:40AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.___ year old Male with a hx of dementia, afib (taken off AC early 
___ due to fall risk), HFpEF, HTN, and a subdural hematoma in 
___, who presented after a fall on ___.

He had a fall on ___ at home. He does not remember how he fell, 
but he subsequently got himself back up and was feeling well. 
However, the next morning, on ___, he was complaining of 
dizziness, so his home health aide brought him in to be seen. CT 
scan at ___ Urgent Care showed a small subdural hematoma and he 
was transferred to ___.

At ___, he was admitted to the Neurosurgery service. Repeat 
Head CT showed a stable subdural hematoma size. He was placed on 
Keppra for seizure prophylaxis. He was subsequently transferred 
to the Medicine service.

On the Medicine service, he was found to have positive 
orthostatics, and his Lisinopril was stopped. His telemetry was 
negative for any arrhythmia, and his EKG showed no concerning 
changes. He had a recent TTE in ___, so repeat echo was 
not pursued. His fall was felt to be more likely due to 
orthostasis rather than syncope, so Lisinopril will be stopped 
on discharge. His symptoms of post-fall confusion are likely due 
to a concussion, and should improve with time, but he should 
report to care if any worsening neurologic changes or further 
falls.

He was seen by both ___ and OT while in house, and he was cleared 
for home, with no need for Rehab or outpatient ___.  He will 
return home where he has assistance from home health aides.

CHRONIC ISSUES
=======================
# Atrial Fibrillation
- Continue home Metoprolol
- Not on anticoagulation due to fall risk

# HLD - continue Lovastatin

# Dementia - continue Donepezil

# Depression - continue Nortryptiline.  Considered downtitration 
of this med given fall risk, but deferred given history of 
significant depression.

# CHF with preserved EF - continue Furosemide

TRANSITIONAL ISSUES
=======================
[ ] Lisinopril was STOPPED due to low-normal BP's, positive 
orthostatics, and fall risk
[ ] At next PCP visit, please RECHECK ORTHOSTATICS to ensure 
normalization. If still positive, consider d/c or decreasing 
Lasix and/or Metoprolol
[ ] He will continue Keppra 500mg BID x5 additional days to 
complete a seven day course for seizure prophylaxis, last day 
___
[ ] He will follow up with ___ clinic in 4 weeks for 
office visit and repeat head CT
[ ] Downtitrating his Nortryptiline to prevent falls and 
sedation was considered, but deferred, given there were multiple 
primary care notes of worsening depression when this medication 
was adjusted
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Nortriptyline 75 mg PO QHS 
4. Vitamin D ___ UNIT PO DAILY 
5. Docusate Sodium 100 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Lovastatin 20 mg oral DAILY 
8. Donepezil 5 mg PO QHS 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID Duration: 14 Doses 
last day ___ 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice daily Disp 
#*11 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO DAILY  
3.  Donepezil 5 mg PO QHS  
4.  Furosemide 20 mg PO DAILY  
5.  Lovastatin 20 mg oral DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Nortriptyline 75 mg PO QHS  
8.  Vitamin D ___ UNIT PO DAILY  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fall
Subdural Hematoma
Concussion
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you at ___.  You were admitted to 
our hospital after you fell.  You were taken in to your doctor's 
office, where a CAT scan showed a small bleed in your head.  
Fortunately, on repeat CAT scan, the bleed was stable, and not 
increasing in size.

You have been started on a medication called Keppra, to prevent 
the risk of having a seizure.  This can be stopped after the 
prescription finishes - you need to take it for 5 more days, 
twice per day.

Some of your fogginess and confusion about the fall is likely 
due to a small concussion.  This should slowly improve with 
time.

If you develop worsening headache, confusion, or further falls, 
please report to the Emergency Room.

We have also stopped your Lisinopril, because your blood 
pressure was somewhat low, and low blood pressures can increase 
the risk of falls.

Please follow up with your doctors as ___ below.

We wish you all the best,
___ Medicine Team
 
Followup Instructions:
___